US06313094B1
[Process 1] Boc-Pro-NH—CH(C2H5)2
In a DMF solution containing 0.50 g of Boc-Pro-OH, 0.27 ml of 1-ethylpropylamine, 0.36 g of HOBT and 0.53 g of EDC hydrochloride were added under ice cooling and the resultant mixture was stirred for 14 hr. The reaction mixture was treated similarly to that in Example 30 (Process 3) to give 324 mg of the title compound.

reactant | Boc-Pro-OH | 0.50 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | 1-ethylpropylamine | 0.27 ml | C(C)C(CC)N | C5H13N
reactant | HOBT | 0.36 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 0.53 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-Pro-NH—CH(C2H5)2 | 324 mg | N1([C@H](C(=O)NC(CC)CC)CCC1)C(=O)OC(C)(C)C | C15H28N2O3
